US04141893
A solution of 1.1 g. of 5a-(3-methoxyphenyl)-decahydrocyclopent[c]azepine and 1.3 g. of cyclopropylformyl chloride in 20 ml. of N,N-dimethylformamide containing 1.4 g. of triethylamine was stirred at 25° C. for eight hours. The reaction mixture then was added to 200 ml. of water, and the aqueous solution was extracted several times with diethyl ether. The ethereal extracts were combined, and the solvent was removed therefrom by evaporation under reduced pressure to provide 2-cyclopropylformyl-5a-(3-methoxyphenyl)-decahydrocyclopent[c]azepine. The product so formed was dissolved in 70 ml. of tetrahydrofuran containing 1 g. of lithium aluminum hydride, and the reaction mixture was heated at reflux and stirred for three hours. The reaction mixture was then cooled to 25° C. and diluted by the dropwise addition of 30 ml. of ethyl acetate. The tetrahydrofuran solution was decanted, diluted with diethyl ether, washed with water, and dried. Removal of the solvent by evaporation under reduced pressure provided 2-cyclopropylmethyl-5a-(3-methoxyphenyl)-decahydrocyclopent[c]azepine as an oil. The oil so formed was dissolved in 50 ml. of diethyl ether through which was bubbled hydrogen chloride gas, thus forming the hydrochloride salt of the above-named compound, which precipitated out of solution. The precipitate was collected by filtration and recrystallized from 25 ml. of diisopropyl ether and 100 ml. of ethyl acetate to afford 0.75 g. of ethyl acetate to afford 0.75 g. of 2-cyclopropylmethyl-5a-(3-methoxyphenyl)-decahydrocyclopent[c]azepine hydrochloride. M.P. 154°-156° C.

reactant | 5a-(3-methoxyphenyl)-decahydrocyclopent[c]azepine | COC=1C=C(C=CC1)C12C(CNCCC1)CCC2 | C16H23NO
reactant | cyclopropylformyl chloride | C1(CC1)C(=O)Cl | C4H5ClO
reactant | N,N-dimethylformamide | 1.4 g | CN(C=O)C | C3H7NO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-cyclopropylformyl-5a-(3-methoxyphenyl)-decahydrocyclopent[c]azepine | C1(CC1)C(=O)N1CC2C(CCC1)(CCC2)C2=CC(=CC=C2)OC | C20H27NO2
